US06310070B1
An amidation reaction and post-treatment were carried out under the same conditions as in Example 22, using 1.50 g (6.40 mol) of 4-amino-1-(2-fluorobenzyl)-5-imidazole carboxamide which was prepared in the same manner as in Example 113 and 2-fluorobenzoyl chloride instead of benzoyl chloride to obtain 2.21 g of 4-(2-fluorobenzoylamino)-1-(2-fluorobenzyl)-5-imidazolecarboxamide (yield 97%).

reactant | 4-amino-1-(2-fluorobenzyl)-5-imidazole carboxamide | 6.40 mol, 1.50 g | NC=1N=CN(C1C(=O)N)CC1=C(C=CC=C1)F | C11H11FN4O
reactant | 2-fluorobenzoyl chloride | FC1=C(C(=O)Cl)C=CC=C1 | C7H4ClFO
product | 4-(2-fluorobenzoylamino)-1-(2-fluorobenzyl)-5-imidazolecarboxamide | 2.21 g, yield 97% | FC1=C(C(=O)NC=2N=CN(C2C(=O)N)CC2=C(C=CC=C2)F)C=CC=C1 | C18H14F2N4O2
